US04331666
Step E: 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer), compound (1)
3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-(4-chloro-2-hydroxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid (5.12 g; 0.01 mole) was dissolved in anhydrous N,N-dimethylacetamide (25 ml). Thiourea (0.76 g; 0.01 mole) was added, and the mixture was stirred at room temperature for 3 hours. The resulting solution was dropped under stirring into ethyl acetate (250 ml). A gummy material precipitated; the supernatant mother liquors were discarded and the residue was carefully triturated with fresh ethyl acetate until a powder was obtained. The powder was collected by filtration and dried. There was thus obtained a N,N-dimethylacetamide solvate of the hydrochloride salt of the desired product. This material was dissolved in aqueous NaHCO3 and washed five times with ethyl acetate, then with diethyl ether. Nitrogen was bubbled in for 15 minutes, charcoal was added, the charcoal was filtered off and the solution made acidic with 2 N HCl. The crystalline precipitate was collected and thoroughly washed with water and then with ethyl alcohol, yielding 3.8 g of the title compound, identical by TLC, IR, NMR to the product prepared in Example 7.

reactant | 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-(4-chloro-2-hydroxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid | 0.01 mole, 5.12 g | NC=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(C(C(CCl)=O)=NO)=O)=O)N=NN2 | C16H14ClN9O6S2
reactant | Thiourea | 0.01 mole, 0.76 g | NC(=S)N | CH4N2S
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 25 ml | CN(C(C)=O)C | C4H9NO
product | 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-[2-(2-amino-4-thiazolyl)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid | NC=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(C(=NO)C=3N=C(SC3)N)=O)=O)N=NN2 | C17H15N11O5S3
